US07157488B2
6-Ethoxycarbonyl-1H-indole
Combine 6-carboxy-1H-indole and ethanol (110 ml) and cool to 5° C. Add dropwise concentrated H2SO4 (96%, 11.08 ml) while keeping the temperature below 10° C. Heat to reflux. After 4 hours, cool and pour onto ice/water, adjust the pH to about pH 9 and extract with ethyl acetate. Combine the organic extracts, wash with brine, dry (Na2SO4), then concentrate to residue. Chromatograph the residue on silica gel eluting with chloroform to give, after evaporation, the title compound: mp 72–75° C. MS (ACPI): m/e 189.9 (M+1).

reactant | 6-carboxy-1H-indole | C(=O)(O)C1=CC=C2C=CNC2=C1 | C9H7NO2
reactant | H2SO4 | 11.08 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 110 ml | C(C)O | C2H6O
product | 6-Ethoxycarbonyl-1H-indole | C(C)OC(=O)C1=CC=C2C=CNC2=C1 | C11H11NO2
